US05883106
A. Ethyl 1-(3-benzyloxy-5-fluorophenyl)cyclopentane-1-carboxylate
The titled compound was prepared from ethyl 3-benzyloxy-5-fluorophenylacetate according to the preparation of ethyl 4-(3-benzyloxy-5-fluorophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate except substituting 1,4-dibromobutane for bis-(2-chloroethyl) ether.

reactant | ethyl 3-benzyloxy-5-fluorophenylacetate | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)CC(=O)OCC | C17H17FO3
reactant | ethyl 4-(3-benzyloxy-5-fluorophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCOCC1)C(=O)OCC | C21H23FO4
reactant | bis-(2-chloroethyl) ether | ClCCOCCCl | C4H8Cl2O
product | Ethyl 1-(3-benzyloxy-5-fluorophenyl)cyclopentane-1-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCCC1)C(=O)OCC | C21H23FO3
